US05864039
4-Chlorobenzyl alcohol (4.3 g), 60% sodium hydride (1.8 g) and 1-bromo-5-chloropentane (6.0 g) were reacted and treated in the same manner as in Example 96 to give 3.6 g of 5-(4-chlorobenzyloxy)pentyl chloride.

reactant | 4-Chlorobenzyl alcohol | 4.3 g | ClC1=CC=C(CO)C=C1 | C7H7ClO
reactant | sodium hydride | 1.8 g | [H-].[Na+]
reactant | 1-bromo-5-chloropentane | 6.0 g | BrCCCCCCl | C5H10BrCl
product | 5-(4-chlorobenzyloxy)pentyl chloride | 3.6 g | ClC1=CC=C(COCCCCCCl)C=C1 | C12H16Cl2O
